US04171318
A mixture of 2.36 g. (9.54 mmol) of 2,3,6-trichloro-4-methoxybenzyl triphenylphosphonium chloride and 2.0 g. (8.93 mmol) of ethyl (E,Z,E)-4-fluoro-3,7-dimethyl-8-oxo-2,4,6-octatrienoate in 200 ml. of toluene and 150 ml. of 1,2-butylene oxide was heated at 85°-90° C. under argon for 18 hours. The mixture was worked up in the usual manner and the resulting crude product was filtered through 150 g. of silica gel. Elution with methylene chloride gave 2.48 g. of a yellow crystalline substance. Recrystallization of this material from methylene chloride-isopropyl ether yielded 2.21 g. (58% yield) of ethyl (E,Z,E,E)-9-(2,3,6-trichloro-4-methoxyphenyl)-4-fluoro-3,7-dimethyl-2,4,6,8-nonatetraenoate as yellow crystals, mp. 140°-142.5° C.

reactant | 2,3,6-trichloro-4-methoxybenzyl triphenylphosphonium chloride | 9.54 mmol | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC(=C1Cl)OC)Cl
reactant | ethyl (E,Z,E)-4-fluoro-3,7-dimethyl-8-oxo-2,4,6-octatrienoate | 8.93 mmol | F/C(/C(=C/C(=O)OCC)/C)=C\C=C(\C=O)/C | C12H15FO3
reactant | 1,2-butylene oxide | C1C(CC)O1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl (E,Z,E,E)-9-(2,3,6-trichloro-4-methoxyphenyl)-4-fluoro-3,7-dimethyl-2,4,6,8-nonatetraenoate | 58% yield | ClC1=C(C(=CC(=C1Cl)OC)Cl)/C=C/C(=C/C=C(/C(=C/C(=O)OCC)/C)\F)/C | C20H20Cl3FO3
